US05604260
Step 7: 5-Nitro-6-(2,4-difluorophenylthio)-1-indanone ethylene ketal
To a mixture of 5-nitro-6-bromo-1-indanone ethylene ketal (600 mg, 2.0 mmol) and 2,4-difluorothiophenol (F. Klages and K. Bott Chem. Ber. 97,735 (1964)) (440 mg, 3.0 mmol) in pyridine (4.0 mL) was added a solution of 8M aqueous potassium hydroxide (375 μL, 3.0 mmol) at room temperature. The mixture was stirred for 2 h, diluted with water and extracted with ethyl acetate. The ethyl acetate extract was washed successively with 1M aqueous NaOH (2x),0.5M aqueous HCl (1x), brine, dried over anhydrous MgSO4 and concentrated in vacuo. Chromatography over silica gel and eluted with toluene: ethyl acetate (10:1) afforded the title compound (590 mg, 81%) as a pale yellow solid.

reactant | 5-nitro-6-bromo-1-indanone ethylene ketal | 2.0 mmol, 600 mg | C1COC2(CCC3=CC(=C(C=C23)Br)[N+](=O)[O-])O1 | C11H10BrNO4
reactant | 2,4-difluorothiophenol | 3.0 mmol, 440 mg | FC1=C(C=CC(=C1)F)S | C6H4F2S
reactant | potassium hydroxide | 3.0 mmol, 8M, 375 μL | [OH-].[K+]
solvent | pyridine | 4.0 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 5-Nitro-6-(2,4-difluorophenylthio)-1-indanone ethylene ketal | 590 mg, 81% | C1COC2(CCC3=CC(=C(C=C23)SC2=C(C=C(C=C2)F)F)[N+](=O)[O-])O1 | C17H13F2NO4S
